US08455613B2
Step 4: tert-butyl-4-(2,7-dibromo-9-methyl-9H-fluoren-9-yl)butylcarbamate
4-(2,7-dibromo-9-methyl-9H-fluoren-9-yl)butan-1-amine (2.39 g, 5.84 mmol) was dissolved in anhydrous THF (20 mL) under nitrogen. To solution, was added di-tert-butyl-dicarbonate (2.01 mL, 8.76 mmol), and the reaction was stirred at 40° C. for 3 hours. The reaction was cooled to room temperature and concentrated via vacuo. Crude solids were triturated with hexanes and filtered using buchner funnel to yield the desired white solids (2.34 g, 79%). 1H NMR (500 MHz, CDCl3): δ=7.53 (d, 2H), 7.45-7.47 (d, 4H), 4.30 (s, 1H), 2.88-2.90 (q, 2H), 1.93-1.96 (t, 2H), 1.43 (s, 3H), 1.41 (s, 9H), 1.25-1.28 (m, 2H), 0.59-0.66 (m, 2H).

reactant | 4-(2,7-dibromo-9-methyl-9H-fluoren-9-yl)butan-1-amine | 5.84 mmol, 2.39 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)CCCCN | C18H19Br2N
reactant | di-tert-butyl-dicarbonate | 8.76 mmol, 2.01 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl-4-(2,7-dibromo-9-methyl-9H-fluoren-9-yl)butylcarbamate | 2.34 g, 79% | C(C)(C)(C)OC(NCCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)C)=O | C23H27Br2NO2
